US07915305B2
Method E: Methyl 3-(1-(2-chlorophenyl)ethoxy)thiophene-2-carboxylate (Intermediate 5)
DEAD (2.6 mL, 16.4 mmol, 1.3 Eq.) was added dropwise to a stirred solution of methyl-3-hydroxythiophene-2-carboxylate (2.0 g, 12.6 mmol, 1.0 Eq.), 1-(2-chlorophenyl)ethanol (2.57 g, 16.4 mmol, 1.3 Eq.) and triphenylphosphine (4.31 g, 16.4 mmol, 1.3 Eq.) in ahydrous THF (30 mL) at 0° C. under nitrogen. The reaction was allowed to warm to ambient temperature overnight. The crude reaction mixture was absorbed onto SiO2 and purified by column chromatography eluting with 0 to 10% EtOAc/petroleum ether to give the sub-title compound as a white solid (1.89 g, 6.37 mmol, 50%); 1H NMR (400 MHz, CDCl3) δ 1.72 (3H, d), 3.87 (3H, s), 5.78 (1H, quint), 6.65 (1H, d), 7.21-7.32 (3H, m), 7.38 (1H, dd), 7.55 (1H, dd).

reactant | DEAD | 16.4 mmol, 2.6 mL, 1.3 Eq. | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | methyl-3-hydroxythiophene-2-carboxylate | 12.6 mmol, 2.0 g, 1.0 Eq. | COC(=O)C=1SC=CC1O | C6H6O3S
reactant | 1-(2-chlorophenyl)ethanol | 16.4 mmol, 2.57 g, 1.3 Eq. | ClC1=C(C=CC=C1)C(C)O | C8H9ClO
reactant | triphenylphosphine | 16.4 mmol, 4.31 g, 1.3 Eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Methyl 3-(1-(2-chlorophenyl)ethoxy)thiophene-2-carboxylate | 6.37 mmol, 1.89 g, 50% | ClC1=C(C=CC=C1)C(C)OC1=C(SC=C1)C(=O)OC | C14H13ClO3S
